US09212182B2
To a microwave vial was added, ethyl 2-((5-(benzylthio)-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)phenyl)amino)acetate (2.00 g, 3.54 mmol) followed by DCM (11.80 ml) and TFA (2.73 ml, 35.4 mmol). The vial was placed in the microwave for 30 min at 80° C. Solvent was removed in vaccuo and sodium bicarbate solution was added. The solution was extracted with DCM and organics dried over MgSO4, filtered and removed solvent in vaccuo. Used 6-(benzylthio)-1-(4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-3,4-dihydroquinoxalin-2(1H)-one (1.43 g, 2.76 mmol, 78% yield) without further purification. m/z (ESI) 520.2 (M+H)+.

reactant | ethyl 2-((5-(benzylthio)-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)phenyl)amino)acetate | 3.54 mmol, 2.00 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)NCC(=O)OCC)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F | C31H30ClFN2O3S
reactant | TFA | 35.4 mmol, 2.73 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 11.80 ml | C(Cl)Cl | CH2Cl2
product | 6-(benzylthio)-1-(4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-3,4-dihydroquinoxalin-2(1H)-one | 2.76 mmol, 1.43 g, 78% yield | C(C1=CC=CC=C1)SC=1C=C2NCC(N(C2=CC1)C1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F)=O | C29H24ClFN2O2S
